US05599832
Preparation of 2-(Trifluoromethyl)indole
A 2.5 M solution of n-butyl lithium in hexanes (8.8 mL, 22 mmole) at room temperature, under N2, is treated with N,N,N'N'-tetramethylethylenediamine (TMEDA) (3.3 mL, 22 mole), stirred at room temperature for 0.5 hour, treated with N-trimethylsilyl-o-toluidine (1.79 g, 10 mmole), heated at reflux temperature for 6 hours, cooled to -78° C., treated with ethyl trifluoroacetate (1.4 mL, 12 mmole) stirred at -78° C. for 0.25 hour, warmed to room temperature, diluted with water and extracted with diethyl ether. The combined extracts are washed sequentially with 1 N HCl and saturated NaHCO3, dried over MgSO4 and concentrated in vacuo to give a residue. The residue is chromatographed using silica gel and 4:1 hexanes:ethyl acetate as eluent to afford the title product as a light yellow solid, mp 104°-106° C. (literature mp 102° C.1), 0.81 g (47% yield), further identified by IR, 1HNMR and 19FNMR analyses.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | N-trimethylsilyl-o-toluidine | 10 mmole, 1.79 g | C[Si](NC=1C(=CC=CC1)C)(C)C | C10H17NSi
reactant | ethyl trifluoroacetate | 12 mmole, 1.4 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | water | O | H2O
product | 2-(Trifluoromethyl)indole | 47% yield | FC(C=1NC2=CC=CC=C2C1)(F)F | C9H6F3N
